US05571809
To a solution of 0.3 g (1 mmol) of 6,11-dihydro-11-ethyl-6-methyl-9-nitro-5H-pyrido[2,3-b][1,5]benzodiazepin-5-one in acetic acid (5 ml) was added a solution of SnCl2.2H2O (1.7 g) in concentrated hydrochloric acid (2.2 ml). The mixture was stirred at room temperature for 6 hours, and then poured into a saturated sodium bicarbonate solution and made basic with aqueous sodium hydroxide. The aqueous phase was then extracted with ethyl acetate, dried (MgSO4), filtered and concentrated in vacuo. The solid material obtained was recrystallized from ethyl acetate to give 0.12 g (44% of theory) of 6,11-dihydro-9-amino-11-ethyl-6-methyl-5H-pyrido[2,3-b][1,5]benzodiazepin-5-one, m.p. 193°-195° C.

reactant | 6,11-dihydro-11-ethyl-6-methyl-9-nitro-5H-pyrido[2,3-b][1,5]benzodiazepin-5-one | 1 mmol, 0.3 g | C(C)N1C2=C(C(N(C3=C1C=C(C=C3)[N+](=O)[O-])C)=O)C=CC=N2 | C15H14N4O3
reactant | SnCl2.2H2O | 1.7 g | O.O.Cl[Sn]Cl
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
solvent | hydrochloric acid | 2.2 ml | Cl | ClH
product | 6,11-dihydro-9-amino-11-ethyl-6-methyl-5H-pyrido[2,3-b][1,5]benzodiazepin-5-one | 0.12 g, 44% | NC1=CC2=C(N(C(C3=C(N2CC)N=CC=C3)=O)C)C=C1 | C15H16N4O
